US09120819B2
2,2′-[Oxybis(ethane-2,1-diyloxyethane-2,1-diyloxy-4,1-phenylene)]bis(4,4,5,5-tetramethyl-1,3,2-dioxaborolane)
By following the process described in Example R65, Example R66 is prepared by dimerization of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol with 1-iodo-2-{2-[2-(2-iodoethoxy)ethoxy]ethoxy}ethane (Example R4). A white powder is obtained.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | CC1(OB(OC1(C)C)C1=CC=C(C=C1)O)C | C12H17BO3
reactant | 1-iodo-2-{2-[2-(2-iodoethoxy)ethoxy]ethoxy}ethane | ICCOCCOCCOCCI | C8H16I2O3
product | 2,2′-[Oxybis(ethane-2,1-diyloxyethane-2,1-diyloxy-4,1-phenylene)]bis(4,4,5,5-tetramethyl-1,3,2-dioxaborolane) | O(CCOCCOC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)CCOCCOC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C32H48B2O9
